US05464865
Potassium t-butoxide (1.9 g) is added to a slurry of methoxymethyl triphenylphosphonium chloride (6.17 g) and 18-Crown-6 (100 mg) in dry THF (40 ml). The mixture is stirred for 5 min, cooled to 15°, and a solution of 4-octyloxybenzaldehyde (3.52 g) in THF (5 ml) is added dropwise. The reaction mixture is stirred at room temperature for 20 min, diluted with 250 ml hexane, and the resulting mixture filtered through a pad of diatomaceous earth. Evaporation of the filtrate leaves crude 1-(2-methoxyethenyl)-4-(octyloxy)benzene as a mixture of cis and trans isomers, containing about 15 mol % triphenylphosphine oxide. The crude material may be used as is, or may be chromatographed with 1:1 hexanedichloromethane.

reactant | Potassium t-butoxide | 1.9 g | CC(C)([O-])C.[K+]
reactant | methoxymethyl triphenylphosphonium chloride | 6.17 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 18-Crown-6 | 100 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 4-octyloxybenzaldehyde | 3.52 g | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | hexane | 250 ml | CCCCCC | C6H14
product | 1-(2-methoxyethenyl)-4-(octyloxy)benzene | COC=CC1=CC=C(C=C1)OCCCCCCCC | C17H26O2
